US06248260B1
Grignard reagent was prepared from 50.0 g (259 mmol) of 3,5-difluorobromobenzene and 6.32 g (260 mmol) of dried magnesium in 350 ml of THF, and cooled down to 0° C. Solution of 40.6 g (260 mmol) of a commercially available cyclohexanedionemonoethylene ketal in 300 ml of THF was added dropwise thereto. After finishing of the dropping, the reaction product was warmed up to room temperature and stirred for 3 hours. The reaction product was added to 500 ml of 6N hydrochloric acid, the product was extracted with toluene, washed with saturated aqueous sodium bicarbonate solution and water, dried over magnesium sulfate, and the solvent was distilled off. To the residue was added 100 ml of toluene and 5 g of p-toluene sulfonic acid (hereinafter abbreviated to PTS) and refluxed for 5 hours with the water formed by the reaction being removed by a Dean and Stark. Subsequently, 2 g of ethylene glycol was added and refluxed for 2 hours. To the reaction product was added 200 ml of water, the organic layer was washed with saturated aqueous sodium bicarbonate solution and water in turn, dried over magnesium sulfate, and then the solvent was distilled off. The residue was purified by column chromatography treatment using toluene/ethyl acetate (4/1) as eluent, and then subjected to hydrogenation in ethanol using 2.02 g of 5% Pd/C as catalyst. After termination of the reaction, the catalyst was filtered off, and the ethanol was distilled off. After the concentrated product thus obtained was refluxed in 150 ml of formic acid for 3 hours, 400 ml of water was added to the reaction product, the product was extracted with toluene, the extract was washed with saturated aqueous sodium bicarbonate solution and water in turn, the toluene layer was dried over magnesium sulfate, and then the toluene was distilled off to obtain 20.2 g (96.1 mmol) of 4-(3,5-difluorophenyl)cyclohexanone. Yield of this product from 3,5-difluorobromobenzene was 37.1%.

reactant | 3,5-difluorobromobenzene | 259 mmol, 50.0 g | FC=1C=C(C=C(C1)F)Br | C6H3BrF2
reactant | magnesium | 260 mmol, 6.32 g | [Mg] | Mg
reactant | hydrochloric acid | 6N, 500 ml | Cl | ClH
reactant | water | 400 ml | O | H2O
solvent | THF | 350 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | formic acid | 150 ml | C(=O)O | CH2O2
product | 4-(3,5-difluorophenyl)cyclohexanone | 96.1 mmol, 20.2 g | FC=1C=C(C=C(C1)F)C1CCC(CC1)=O | C12H12F2O
